US04587241
(A) Preparation of 4,5 di(hydroxymethyl)imidazole
Reflux dimethyl 4,5 imidazole dicarboxylate (1.8 g) in THF (tetrahydrofuran) with 2.5 equivalents of LAH lithium aluminum hydride). Neutralize with NH4Cl solution and filter. Concentrate the filtrate under vacumm and extract the product with ethanol. Remove the solvent, filtrate through alumina using a THF solvent to give the title compound.

reactant | dimethyl 4,5 imidazole dicarboxylate | 1.8 g | N1C=NC(=C1C(=O)OC)C(=O)OC | C7H8N2O4
solvent | THF | O1CCCC1 | C4H8O
product | 4,5 di(hydroxymethyl)imidazole | OCC=1N=CNC1CO | C5H8N2O2
